US07612078B2
N-(1-(3-Fluorobenzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (58 mg, 53%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine dihydrochloride (100 mg, 0.29 mmol) and 1-(bromomethyl)-3-fluorobenzene (55 mg, 0.29 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3) δ 8.44 (s, 1H), 7.28 (dd, 1H), 7.09 (d, 1H), 7.08 (d, 1H), 6.98 (s, 1H), 6.95 (dt, 1H), 4.85 (d, 1H), 4.19 (m, 1H), 3.49 (s, 2H), 2.87 (d, 2H), 2.23 (dt, 2H), 2.09 (d, 2H), 1.60 (m, 2H); MS (ESI) m/z: Calculated for C18H19ClFN4S, 377.1; Observed: 377.2 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine dihydrochloride | 0.29 mmol, 100 mg | Cl.Cl.ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1
reactant | 1-(bromomethyl)-3-fluorobenzene | 0.29 mmol, 55 mg | BrCC1=CC(=CC=C1)F | C7H6BrF
product | N-(1-(3-Fluorobenzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine | FC=1C=C(CN2CCC(CC2)NC=2C3=C(N=CN2)SC(=C3)Cl)C=CC1 | C18H18ClFN4S
